Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
cough
 
Major Surgical or Invasive Procedure:
___
1. Robotic-assisted left upper division segmentectomy.
2. Mediastinal lymph node dissection.

 
History of Present Illness:
Ms ___ is a ___ who presented with
congested cough x 10 days. She was diagnosed with pneumonia. A
f/u CXR noted a persistent patchy infiltrate LUL. A chest CT
___ noted a 3 cm LUL anterior segment spiculated mass,
extending to the pleural surface. there is  bronchiectasis 
within
the mass.  Severe emphysema was also noted.
A CT guided biopsy was non diagnostic and she presents now for 
surgical resection.
 
Past Medical History:
COPD
Osteoarthritis
HTN
Hyperlipidemia
GERD

 
Social History:
___
Family History:
non contribtory
 
Physical Exam:
BP: 128/81. Heart Rate: 95. Weight: 128.6. Height: 62.5. BMI:
23.1. Temperature: 98.0. Resp. Rate: 16. Pain Score: 0. O2
Saturation%: 100. Distress Score: 0.

Gen: NAD, AOx3
___: reg
Pulm: no resp distress
___: no LLE

 
Pertinent Results:
___ 09:32AM   GLUCOSE-144* LACTATE-1.4 NA+-139 K+-3.8 
CL--105
___ 09:32AM   HGB-12.1 calcHCT-36
___ 02:34PM   GLUCOSE-129* UREA N-14 CREAT-0.8 SODIUM-141 
POTASSIUM-3.9 CHLORIDE-108 TOTAL CO2-25 ANION GAP-12

___ CXR :
No previous images. There has been a segmentectomy on the left 
with chest tube in place and no evidence of pneumothorax. 
Subcutaneous gas is seen along the left lateral chest wall. Mild 
elevation of left hemidiaphragm is seen. The right lung is 
clear. There is an endotracheal tube in place with the tip 
approximately 2.7 cm above the carina. 
  
___ CXR :
1. New left  pneumothorax, with chest tube in place. Correlate 
clinically - consider repositioning of chest tube. 
2. New small amount of free intraperitoneal air. CT may be 
performed to 
further assess. 

___ CXR :
In comparison with the earlier study of this date, the left 
chest tube remains in place.  There has been mild decrease in 
the degree of apical pneumothorax. Subcutaneous gas in the 
supraclavicular region and along the lower left lateral chest 
wall is unchanged 

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the 
Operating Room where she underwent a robotic-assisted left upper 
division segmentectomy and mediastinal lymph node dissection. 
She tolerated the procedure well and returned to ___ PACU 
intubated and in stable condition.  She maintained stable 
hemodynamics and was easily weaned and extubated from the 
respirator within the first few hours post op. She had an air 
leak from her chest tube and it remained on suction.  Her pain 
control was an issue and she required multiple adjustments.

Following transfer to the Surgical floor she underwent a 
waterseal trial but had a larger left apical space and was 
placed back on suction.  Her pain was better controlled with 
scheduled Tramadol, prn Vicodin and Toradol.  Her air leak 
persisted, notable with a deep cough. The tube was placed to a 
pneumostat and her chest xray showed the same left apical space. 
 Her port sites were dry and her room air saturations were 95%.  
She was instructed in the care  and drainage procedure  for the 
pneumostat and will also have ___ services.

She was discharged to home on ___ and will follow up in the 
Thoracic Clinic next week.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. benazepril 40 mg oral daily 
2. aclidinium bromide 400 mcg/actuation inhalation BID 
3. Atenolol 50 mg PO DAILY 
4. Pravastatin 40 mg PO DAILY 
5. HYDROcodone-ibuprofen 7.5-200 mg oral Q 6 hrs prn pain 
6. Omeprazole 20 mg PO DAILY 
7. Aspirin 325 mg PO DAILY 
8. albuterol sulfate 90 mcg/actuation inhalation QID prn 
wheezing 
9. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1. aclidinium bromide 400 mcg/actuation inhalation BID 
2. Atenolol 50 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*2
5. Hydrocodone-Acetaminophen (5mg-325mg) 2 TAB PO Q4H:PRN pain 
RX *hydrocodone-acetaminophen 5 mg-325 mg ___ tablet(s) by mouth 
every four (4) hours Disp #*60 Tablet Refills:*0
6. Milk of Magnesia 30 mL PO HS:PRN constipation 
7. TraMADOL (Ultram) 50 mg PO QID 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*60 Tablet Refills:*2
8. albuterol sulfate 90 mcg/actuation inhalation QID prn 
wheezing 
9. Aspirin 325 mg PO DAILY 
10. benazepril 40 mg ORAL DAILY 
11. Pravastatin 40 mg PO DAILY 
12. Vitamin D ___ UNIT PO DAILY 
13. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
Left lung nodule.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you're 
recovering well but still need your chest tube. A small device 
called a pneumostat was attached to the end of the tube so that 
you will be able to go home with the tube in place. You will 
need to be followed closely and a ___ will be set up to help you 
care for the tube.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Place the pneumostat in a plastic bag to keep it 
dry while showering. Wash incision with mild soap & water, 
rinse, pat dry
* No tub bathing, swimming or hot tubs until the tube is out.
* No lotions or creams to incisions
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.

About The Atrium Pneumostat:
The Atrium Pneumostat is made to allow air and a little fluid to 
escape from your chest until your lung heals. The device will 
hold 30ml of fluid. Empty the device as often as needed (see 
directions below) and keep track of how much you empty each day.
Items Needed for Home Use:
• Atrium Pneumostat Chest Drain Valve (provided by hospital)
• ___ syringes to empty drainage, if needed (provided by 
hospital or ___ Nurse)
• Wound dressings (provided by hospital or ___ Nurse)
Securing the Pneumostat:
Utilize the pre-attached garment clip to secure the Pneumostat 
to your clothes. It is small and light enough that you won't 
even feel it hanging at your side. Make sure to keep the 
Pneumostat in an upright position as much as possible. Before 
lying down to sleep or rest, empty the Pneumostat so there will 
be no fluid to potentially leak out.
Wound Dressing:
You have a dressing around your chest tube. This should be 
changed at least every other day.
Showering/Bathing:
Showering with a chest tube is all right as long as you don't 
submerge the tube or device in water. Put the pneumostat in a 
plastic bag during showering so that the device stays dry. No 
baths, swimming, or hot tubs.
Note:
This device is very important and the tubing must stay attached 
to the end of your chest tube.
• If it falls off, reconnect it immediately and tape it 
securely.
• If it falls off and you can't get it back together, go to the 
closest hospital emergency room.
Warnings:
1. Do not obstruct the air leak well.
2. Do not clamp the patient tube during use.
3. Do not use or puncture the needleless ___ port with a 
needle.
4. Do not leave a syringe attached to the needleless ___ port.
5. Do not connect any ___ connector to the needleless
___ port located on the bottom of the chest drain valve.
6. If at any time you have concerns or questions, contact your 
nurse or physician.
Emptying the Pneumostat
• Keep the Pneumostat in an upright position and make sure the 
tubing stays firmly attached to the end of your chest tube. Make 
sure the Pneumostat stays clean and dry. Do not allow the 
Pneumostat to completely fill with fluid or it may start to leak 
out. If fluid does leak out, clean off the Pneumostat and use a 
Q-tip to dry out the valve.
• If the Pneumostat becomes full with fluid, empty it using a 
___ syringe. Firmly screw the ___ onto the port 
located on the bottom of the Pneumostat.
• Pull the plunger back on the syringe to empty the fluid. When 
the syringe is full, unscrew the syringe and empty the fluid 
into the nearest suitable receptacle. Repeat as necessary. If it 
becomes difficult to empty the fluid using a syringe, squirt 
water through the port to flush out the blockage or consult your 
nurse or physician. The Pneumostat may need to be changed out.

 

 
 

 
Followup Instructions:
___